US07659279B2
2-{(2R)-2-[({4-[3-Chloro-4-fluoroanilino]-7-methoxyquinazolin-5-yl}oxy)methyl]pyrrolidin-1-yl}-2-oxoethanol
The procedure described in Example 1 was repeated using N-(3-chloro-4-fluorophenyl)-7-methoxy-5-[(2R)-pyrrolidin-2-ylmethoxy]-quinazolin-4-amine (90 mg) and glycolic acid (19 mg) to give the title compound in 47% yield; NMR Spectrum (DMSO-d6) 9.90 (s, 1H), 8.42 (s, 1H), 8.15 (dd, 1H), 7.70-7.60 (m, 1H), 7.40 (t, 1H), 6.90 (d, 1H), 6.78 (d, 1H), 4.65-4.53 (m, 2H), 4.42-4.37 (m, 1M), 4.20-4.11 (m, 1H), 4.03 (d, 1H), 3.90 (s, 3H), 3.45-3.35 (m, 3H), 2.10-1.82 (m, 41); Mass spectrum MH+ 461.

reactant | N-(3-chloro-4-fluorophenyl)-7-methoxy-5-[(2R)-pyrrolidin-2-ylmethoxy]-quinazolin-4-amine | 90 mg | ClC=1C=C(C=CC1F)NC1=NC=NC2=CC(=CC(=C12)OC[C@@H]1NCCC1)OC | C20H20ClFN4O2
reactant | glycolic acid | 19 mg | C(CO)(=O)O | C2H4O3
product | 2-{(2R)-2-[({4-[3-Chloro-4-fluoroanilino]-7-methoxyquinazolin-5-yl}oxy)methyl]pyrrolidin-1-yl}-2-oxoethanol | 47% yield | ClC=1C=C(NC2=NC=NC3=CC(=CC(=C23)OC[C@@H]2N(CCC2)C(CO)=O)OC)C=CC1F | C22H22ClFN4O4
